US09340510B2
6-Cyclopropylmethoxy-4-methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To 200 mg (0.626 mmol) 6-cyclopropylmethoxy-4-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (example XLIII.1) in 3 mL THF are added 30 mg (0.69 mmol) NaH (55%) and stirred at r.t. for 30 min. Then 35 μL (0.56 mmol) methyl iodide are added and the reaction mixture is stirred at 80° C. over night. The reaction mixture is quenched by the addition of water and extracted three times with EtOAc. The organic layers are combined, dried over MgSO4, filtered and the solvent is removed in vacuo.

reactant | 6-cyclopropylmethoxy-4-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.626 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)O)OCC1CC1 | C18H25NO4
reactant | NaH | 0.69 mmol, 30 mg | [H-].[Na+]
reactant | methyl iodide | 0.56 mmol, 35 μL | CI | CH3I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-Cyclopropylmethoxy-4-methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)OC)OCC1CC1 | C19H27NO4
